US05925253
Step II--2-(2-Methacryloyloxyethoxy)ethyl-dimethylethylammonium bromide
2-(2-dimethylaminoethoxy)ethyl methacrylate (8 g) was dissolved in acetone (20 g) and small amounts of hydroquinone (approx. 0.1 g) was added followed by the addition of bromoethane (8 g). The mixture was stirred at room temperature for 24 hours and the solvent was removed under reduced pressure at 25° C. Product was obtained as an amorphous solid. Yield 12.2 g.

reactant | 2-(2-dimethylaminoethoxy)ethyl methacrylate | 8 g | C(C(=C)C)(=O)OCCOCCN(C)C | C10H19NO3
reactant | hydroquinone | approx. 0.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | bromoethane | 8 g | BrCC | C2H5Br
solvent | acetone | 20 g | CC(=O)C | C3H6O
product | 2-(2-Methacryloyloxyethoxy)ethyl-dimethylethylammonium bromide | [Br-].C(C(=C)C)(=O)OCCOCC[N+](CC)(C)C | InChI=1S/C12H24NO3.BrH/c1-6-13(4,5)7-8-15-9-10-16-12(14)11(2)3;/h2,6-10H2,1,3-5H3;1H/q+1;/p-1
